US05817647
(4-Chloro-2-butynyloxy)methylphosphonic acid diethylester
To a mixture of hydroxymethylphosphonic acid diethylester (3.35 g, 20 mmol), 1,4-dichloro-2-butyne (3.8 g, 30 mmol) and tetra-n-butylammonium iodide,(0.75 g, 2 mmol) in anhydrous tetrahydrofuran (100 ml), sodium hydride (0.95 g, 24 mmol, 60% in oil) is added in portions at 0° C. The resulting mixture is stirred overnight at 0° C. Then the reaction mixture is stirred overnight at 20° C., hydrolyzed with a saturated solution of ammonium chloride and extracted with diethylether. The title product is obtained by flash chromatography on silica gel (2.3 g, 30%).

reactant | hydroxymethylphosphonic acid diethylester | 20 mmol, 3.35 g | C(C)OP(OCC)(=O)CO | C5H13O4P
reactant | 1,4-dichloro-2-butyne | 30 mmol, 3.8 g | ClCC#CCCl | C4H4Cl2
reactant | sodium hydride | 24 mmol, 0.95 g | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (4-Chloro-2-butynyloxy)methylphosphonic acid diethylester | C(C)OP(OCC)(=O)COCC#CCCl | C9H16ClO4P
